data/oMe_Silver.jsonl
{"reaction_id": "NR-110_1-C1CCCCC1_2-C(=O)C_3-Br_4-c1ccc2ccccc2c1","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(OC1CCCCC1)(OC1CCCCC1)C(C(=O)C)Br","O=Cc1ccc2ccccc2c1"],"products_smiles": ["C(c1ccc2ccccc2c1)=C(C(=O)C)Br"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(OC1CCCCC1)(OC1CCCCC1)[C-](C(=O)C)Br","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(OC1CCCCC1)(OC1CCCCC1)C(C(=O)C)(Br)C([O-])c1ccc2ccccc2c1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1CCCCC1OP1([O-])(OC1CCCCC1)C(C(=O)C)(Br)C(c1ccc2ccccc2c1)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc2ccccc2c1)=C(C(=O)C)Br","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
{"reaction_id": "NR-212_1-C(F)(F)F_2-CC_3-S(=O)(=O)c1ccccc1_4-CC_5-c1ccc(Cl)cc1_6-C1CCCCC1","level": "easy","name": "Paterno-Buchi Reaction","reactants_smiles": ["C(C(F)(F)F)(CC)=C(S(=O)(=O)c1ccccc1)(CC)","O=C(c1ccc(Cl)cc1)(C1CCCCC1)"],"products_smiles": ["C1(C(F)(F)F)(CC)C(c1ccc(Cl)cc1)(C1CCCCC1)OC1(S(=O)(=O)c1ccccc1)(CC)"],"conditions": "hv","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "C1(C(F)(F)F)(CC)C(c1ccc(Cl)cc1)(C1CCCCC1)OC1(S(=O)(=O)c1ccccc1)(CC)","step_weight": 0,"rationale": "UV light excites the carbonyl to a reactive state, allowing radical coupling with the alkene's π-bond; oxygen's electronegativity and π-overlap stabilize the diradical intermediate, favoring oxetane ring closure."}],"description": "Under UV irradiation, the carbonyl compound is excited to a singlet or triplet state, enabling [2+2] photocycloaddition with the alkene to form an oxetane. The reaction proceeds via radical intermediates stabilized by the oxygen and alkene π-system."}
